US05532240
To a solution of 2.5 g of 7-acetyl-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine and 2.7 g of 4-chlorobutyryl chloride in 25 ml of dichloromethane was added 6.0 g of aluminum chloride under ice-cooling. The mixture was stirred for 30 minutes, poured into water and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography on a silica gel to give 2.9 g of 7-acetyl-2-(4-chlorobutyryl)-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine as an oil.

reactant | 7-acetyl-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine | 2.5 g | C(C)(=O)N1CC2=C(CCC1)C=CS2 | C10H13NOS
reactant | 4-chlorobutyryl chloride | 2.7 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | aluminum chloride | 6.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 7-acetyl-2-(4-chlorobutyryl)-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine | 2.9 g | C(C)(=O)N1CC2=C(CCC1)C=C(S2)C(CCCCl)=O | C14H18ClNO2S
